Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
morphine / Compazine / Reglan
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, hematemesis
 
Major Surgical or Invasive Procedure:
EGD on ___
 
History of Present Illness:
___ hx chronic idiopathic pancreatitis (related to ciliary 
dyskinesia), h/o ___ tear, who presents to ___ ED 
with acute onset abdominal pain with radiation to his back, 
nausea, and emesis (with 2 episodes of large volume 
hematemesis). He had one day of left upper quadrant abdominal 
pain with radiation to the back and about 10 to 12 episodes of 
vomiting which has gone from stomach contents to red blood. He 
also had diarrhea x3 with BRBPR, and fatty stool (at baseline). 
The pain has been persistent and progressive. The pain improved 
with vomiting and diarrhea. The abdominal pain, vomiting, and 
diarrhea are consistent with previous flares of chronic 
pancreatitis that he has had over the past ___ years. He says 
he has had more than 20 of these episodes, often requiring 
hospitalization. He typically manages the pain with bowel rest, 
dilaudid, and ondansetron and it resolves in ___ days. He 
presented to ___ for evaluation given his hematemesis.
 
Past Medical History:
- chronic pancreatitis (diagnosed early ___)
- primary cililary dyskinesia
- h/o ___ tear
 
Social History:
___
Family History:
DM - parents, siblings, uncles/aunts

 
Physical ___:
ADMISSION PHYSICAL EXAM
========================
VS T 98.1 BP 150/76 HR 60 RR 16 96%RA
Genl: lying comfortably in bed in NAD
HEENT: PERRL, anichteric sclera, pink conjunctiva, MMM, 
yellowing of the dentition 
Neck: supple
CV: regular rate and rhythm, normal S1/S2, no murmurs, rubs, or 
gallops
Pulm: CTAB, no rales, rhonchi, or wheezes
Abd: BS +, nondistended
Ext: WWP, no ___ edema, pulses palpable bilaterally
Neuro: CNII-XII grossly intact, AOx3
Skin: no jaundice appreciated, erythematous excoriations in the 
mid-axillary line bilaterally 
Access: PIV x1

DISCHARGE PHYSICAL EXAM
=======================
ELOPED
 
Pertinent Results:
ADMISSION LABS
==============
___ 05:56AM BLOOD WBC-8.5 RBC-3.91* Hgb-11.5* Hct-35.9* 
MCV-92 MCH-29.4 MCHC-32.0 RDW-14.1 RDWSD-47.4* Plt ___
___ 05:56AM BLOOD Neuts-62.3 ___ Monos-6.5 Eos-2.7 
Baso-0.6 Im ___ AbsNeut-5.31 AbsLymp-2.34 AbsMono-0.55 
AbsEos-0.23 AbsBaso-0.05
___ 05:56AM BLOOD Glucose-116* UreaN-15 Creat-1.3* Na-142 
K-3.7 Cl-105 HCO3-26 AnGap-15
___ 05:56AM BLOOD ALT-28 AST-29 AlkPhos-88 TotBili-0.3
___ 05:56AM BLOOD Lipase-54
___ 05:56AM BLOOD Albumin-3.9 Calcium-9.0 Phos-4.0 Mg-1.9
___ 09:56AM BLOOD Lactate-1.4

MICRO
==============
NONE

STUDIES
==============
___ CHEST(PA & LAT)
Lung volumes are low-normal.  There is no focal consolidation, 
effusion, or  pneumothorax.  Mediastinal and hilar contours are 
normal.  Heart size is normal. IMPRESSION: No acute 
intrathoracic process.

___ EGD
Esophagitis in the lower esophagus
Erosions in the antrum and body
Erythema in the duodenum
Otherwise normal EGD to third part of the duodenum

DISCHARGE LABS
==============
ELOPED
 
Brief Hospital Course:
This is a ___ chronic idiopathic pancreatitis (related to 
ciliary dyskinesia), h/o ___ tear, who presented to 
___ ED with acute onset abdominal pain with radiation to his 
back, nausea, and emesis (with 2 episodes of large volume 
hematemesis). He also had diarrhea x3 with BRBPR, and fatty 
stool (at baseline). The abdominal pain, vomiting, and diarrhea 
are consistent with previous flares of chronic pancreatitis that 
he has had over the past ___ years (attributed to ciliary 
dysfunction -- no hx etoh or gallstones). An endoscopy was 
performed, which showed gastritis but no source of bleeding. 

Regarding pancreatitis, patient was kept NPO, pain was 
controlled with hydromorphone, nausea controlled with zofran. No 
episodes of emesis during admission (BID PPI was started due to 
gastritis and concern for GIB, but no ongoing hematemesis or 
bloody stool, and H/H remained stable). Patient was started on 
creon given concern for pancreatic insufficiency. 

Patient's diet was advanced to regular, and plan to convert IV 
to PO pain control was discussed with patient. Patient eloped 
shortly thereafter. Peripheral IV was removed by patient and 
left in bed. 

TRANSITIONAL ISSUES:
- Patient eloped when IV pain control was converted to PO.
- CODE: presumed full
- CONTACT: ___ (family friend) ___

Addendum by ___, MD on ___ at 3:08 pm:
HMED Attending Daily Progress Note Addendum

Date: ___
Time Seen: 1007

I have seen and examined the patient, reviewed the findings and
plan of care as documented by Dr. ___, MD
on ___, and agree, except for any additional comments
below.  Patient eloped this afternoon for unclear reasons.
Removed his IV prior to leaving per RN report.  We had
transitioned from IV to PO pain medications and were planning to
potentially discharge him later today and had told him this
during our encounter this morning.  He appeared well at that 
time
and reported he had tolerated PO with pain, but no vomiting. I
have reviewed the ___ for the name and DOB we have on file
___ ___ and linked with the PMP of ___, ___, ___,
___, and ___ and his name and DOB was not found. If he returns to
___ complaining of severe abdominal pain in the future, I 
would
be wary of giving any narcotic pain medications until a review 
of
the PMP (with confirmed name/identification) and a urine drug
screen had been done.
 
Medications on Admission:
Melatonin PRN
 
Discharge Medications:
Melatonin PRN
1.  Creon 12 1 CAP PO TID W/MEALS  
2.  Pantoprazole 40 mg PO Q12H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic pancreatitis
Primary ciliary dyskinesia
Hematemesis
Hematochezia
Gastritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because you were experiencing 
abdominal pain, nausea, and bloody vomiting. We believe that 
your symptoms were caused by a flare of your chronic 
pancreatitis. We treated you pain and nausea with medications, 
and you left the hospital without telling anyone on your care 
team.

Please follow up with your PCP. 

If you notice blood in your stool or vomit again, seek medical 
care immediately.

It was a pleasuring caring for you!
Your ___ Care Team
 
Followup Instructions:
___